US04367238
48% Hydriodic acid (40 ml) was added dropwise to a solution of 2-[2-methoxy-3-(4-chlorophenoxy)phenyl]acetic acid (6.7 g) in acetic anhydride (20 ml) with stirring under ice-cooling in 5 minutes, and the mixture was refluxed under heating for 20 minutes. The reaction mixture was poured into an ice-water containing a small amount of sodium hydrogen sulfite and allowed to stand. The precipitating crystals were collected by filtration, washed with water, dried and then recrystallized from a mixture of benzene and n-hexane to give 2-[2-hydroxy-3-(4-chlorophenoxy)phenyl]acetic acid (4.4 g). mp 100°-102° C.

reactant | Hydriodic acid | 40 ml | I | HI
reactant | 2-[2-methoxy-3-(4-chlorophenoxy)phenyl]acetic acid | 6.7 g | COC1=C(C=CC=C1OC1=CC=C(C=C1)Cl)CC(=O)O | C15H13ClO4
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[2-hydroxy-3-(4-chlorophenoxy)phenyl]acetic acid | 4.4 g | OC1=C(C=CC=C1OC1=CC=C(C=C1)Cl)CC(=O)O | C14H11ClO4
